US05650399
Synthesis of dimethylanthraquinone-piperazinyl phosphoramidite.
1-(1-[2-hydroxyethyl)piperazinyl-1,4-dimethylanthraquinone (1 mmol) is dissolved in CH2Cl2 (2 mL), and N-ethyldiisopropylamine (760 μL, 4 mmol) and N,N-diisopropylmethylphosphonamidic chloride (194 μL, 1 mmol) are added. After 30 min., the solution is poured into ethylacetate (5 mL, previously washed with 2×5 mL of 5% NaHCO3, and 2×5 mL of saturated NaCl). The ethylacetate phase is dried over Na2SO4 and evaporated to an oil, N-1,4-dimethylanthraquinonyl-O-methoxydiisopropylamino phosphite 1-(2-hydroxyethyl)piperazine.

reactant | 1-[2-hydroxyethyl)piperazinyl-1,4-dimethylanthraquinone | 1 mmol | OCCN1C(CNCC1)C1=C(C=2C(C3=CC=CC=C3C(C2C(=C1)C)=O)=O)C | C22H24N2O3
reactant | N-ethyldiisopropylamine | 4 mmol, 760 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N,N-diisopropylmethylphosphonamidic chloride | 1 mmol, 194 μL | C(C)(C)N(P(=O)(C)Cl)C(C)C | C7H17ClNOP
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | dimethylanthraquinone piperazinyl phosphoramidite | CC1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)C.P(ON1CCNCC1)([O-])N | InChI=1S/C16H12O2.C4H11N3O2P/c1-9-7-8-13-14(10(9)2)16(18)12-6-4-3-5-11(12)15(13)17;5-10(8)9-7-3-1-6-2-4-7/h3-8H,1-2H3;6H,1-5H2/q;-1
